US06949552B2
In 6.0 ml of chloroform was dissolved 0.69 g of 4-methoxyphenacyl bromide, and 3.0 ml of N-ethyldiisopropylamine and 1.20 g of 1-(4-naphthalen-1-yl-butyl)piperazine dihydrochloride were added, followed by reflux with heating for an hour. The reaction solution was cooled to room temperature, and concentrated under reduced pressure. To the residue was added a saturated aqueous sodium bicarbonate solution and, after extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure to give a crude 1-[2-(4-methoxyphenyl)-2-oxoethyl]-4-(4-naphthalen-1-yl-butyl)piperazine.

reactant | 4-methoxyphenacyl bromide | 0.69 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | N-ethyldiisopropylamine | 3.0 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-(4-naphthalen-1-yl-butyl)piperazine dihydrochloride | 1.20 g | Cl.Cl.C1(=CC=CC2=CC=CC=C12)CCCCN1CCNCC1
solvent | chloroform | 6.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-(4-methoxyphenyl)-2-oxoethyl]-4-(4-naphthalen-1-yl-butyl)piperazine | COC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)=O | C27H32N2O2
